US03947457
EXAMPLE II -- 2,5,6-TRICHLOROPYRIDINE PREPARATION
To a 10 milliliter solution of 5 Normal sodium hydroxide was added a mixture of 5 grams of tetrachloro-4-hydrazinopyridine in 25 milliliters of isopropanol. The mixture was heated at its boiling point with rapid stirring for 2 hours. The mixture was mixed with 100 milliliters of water and the organic material extracted with methylene chloride. The organic phase was water washed and subjected to sublimation. The 2,5,6-trichloropyridine product was recovered in a yield of 1.85 grams (~ 51 percent of theoretical).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrachloro-4-hydrazinopyridine | 5 grams | ClC1=C(C(=C(C(=N1)Cl)Cl)NN)Cl | C5H3Cl4N3
reactant | water | 100 milliliters | O | H2O
solvent | isopropanol | 25 milliliters | C(C)(C)O | C3H8O
product | 2,5,6-TRICHLOROPYRIDINE | ClC1=NC(=C(C=C1)Cl)Cl | C5H2Cl3N
